US09450174B2
To 1,2-dichloroethane (10 ml) was added N-carboxy-γ-benzyl-L-glutamic acid anhydride (1.00 g, 3.80 mmol), and the mixture was cooled to 0° C. N,N-Dimethyl-1,3-propanediamine (9.56 μl, 0.076 mmol) was added as an initiator, and the mixture was stirred at 25° C. for 1 day and cooled again to 0° C. Nα-Carboxy-Nε-benzyloxycarbonyl-L-lysine anhydride (1.16 g, 3.80 mmol) was added, and the mixture was stirred at 25° C. for 1 day to give a γ-benzyl-L-glutamic acid-Nε-benzyloxycarbonyl-L-lysine block copolymer (low molecular weight copolymer). The weight average molecular weight, Mw, of the copolymer was measured by Measurement Method 1 described below. In addition, the composition of the copolymer was measured by Measurement Method 2 described below.

reactant | N-carboxy-γ-benzyl-L-glutamic acid anhydride | 3.80 mmol, 1.00 g | C(=O)(O)N[C@H]1CC(C(=O)OC1=O)CC1=CC=CC=C1 | C13H13NO5
reactant | N,N-Dimethyl-1,3-propanediamine | 0.076 mmol, 9.56 μl | CN(CCCN)C | C5H14N2
reactant | Nα-Carboxy-Nε-benzyloxycarbonyl-L-lysine anhydride | 3.80 mmol, 1.16 g | C(=O)(O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC([C@@H](NC(=O)O)CCCCNC(=O)OCC1=CC=CC=C1)=O | C30H38N4O11
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | γ-benzyl-L-glutamic acid Nε-benzyloxycarbonyl-L-lysine | C(C1=CC=CC=C1)C(C[C@H](N)C(=O)O)C(=O)O.C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)O | InChI=1S/C14H20N2O4.C12H15NO4/c15-12(13(17)18)8-4-5-9-16-14(19)20-10-11-6-2-1-3-7-11;13-10(12(16)17)7-9(11(14)15)6-8-4-2-1-3-5-8/h1-3,6-7,12H,4-5,8-10,15H2,(H,16,19)(H,17,18);1-5,9-10H,6-7,13H2,(H,14,15)(H,16,17)/t12-;9?,10-/m00/s1
